US08252919B2
Production of 5′-O-[bis(4-methoxyphenyl)phenylmethyl]-2′-O-phenylcarbamoylcytidine 3′-O-(2-cyanoethyl N,N-diisopropylphosphoramidite)
To the acetonitrile solution of 5′-O-[bis(4-methoxyphenyl)phenylmethyl]-2′-O-phenylcarbamoyl-uridine 3′-O-(2-cyanoethyl N,N-diisopropylphosphoramidite) (0.88 mmol, 765.5 mg) and POCl3 (1.88 mmol, 287.5 mg) and triethylamine (21.6 mmol, 2.186 g), 1,2,4-triazole (20.7 mmol, 1.459 g) was added dropwise at room temperature. The mixture was stirred for 2 hours. Ethyl acetate (150 ml) was added thereto, and the organic layer was washed with a 5% Na2CO3 aqueous solution twice and distilled water once. The organic layer was dried with anhydrous sodium sulfate, and concentrated to obtain a pale yellow solid. The solid was dissolved in a mixed solvent of pyridine and ammonia, and the solution was stirred for 2.8 hours at room temperature. The solvent was distilled away, and the residue was subject to azeotropy with toluene and purified with silica gel column chromatography. The isolated yield was 93%.

reactant | 5′-O-[bis(4-methoxyphenyl)phenylmethyl]-2′-O-phenylcarbamoyl-uridine 3′-O-(2-cyanoethyl N,N-diisopropylphosphoramidite) | 0.88 mmol, 765.5 mg | C(#N)CCP(O)(N(C(C)C)C(C)C)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)N1C(=O)NC(=O)C=C1)OC(NC1=CC=CC=C1)=O | C46H54N5O10P
reactant | POCl3 | 1.88 mmol, 287.5 mg | O=P(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 21.6 mmol, 2.186 g | C(C)N(CC)CC | C6H15N
reactant | 1,2,4-triazole | 20.7 mmol, 1.459 g | N1N=CN=C1 | C2H3N3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ammonia | N | H3N
solvent | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5′-O-[bis(4-methoxyphenyl)phenylmethyl]-2′-O-phenylcarbamoylcytidine 3′-O-(2-cyanoethyl N,N-diisopropylphosphoramidite) | yield was 93% | C(#N)CCP(O)(N(C(C)C)C(C)C)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)N1C(=O)N=C(N)C=C1)OC(NC1=CC=CC=C1)=O | C46H55N6O9P
